US04927955
To a suspension of 2.6 g of (R)-2-amino-7-hydroxytetralin hydrochloride, PREPARATION III, 2.4 g of (R)-3-chloromandelic acid and 5.2 g of BOP in 60 ml of anhydrous methylene chloride, there is added slowly 3.6 ml of triethylamine, then the solution thus obtained is left under stirring at room temperature for 3 hours. A volume of 50 ml of a saturated sodium chloride solution is added thereto, and the reaction mixture is left under stirring for 30 minutes at room temperature. After addition of 200 ml of ethyl acetate the phases are separated. The organic phase is washed twice with 30 ml of 2N hydrochloric acid and then twice with 30 ml of a saturated sodium chloride solution. The organic solution is dried over sodium sulfate, then filtered and evaporated to dryness. The oil thus obtained is purified by flash chromatography by eluting with 55/45 mixture of ethyl acetate/cyclohexane. A doughy solid is obtained that is taken up with 20 ml of ethyl ether from which the product crystallizes. After addition of 10 ml of cyclohexane, the product is filtered, washed with a 2/1 mixture of cyclohexan/ethyl ether and dried under reduced pressure at 50° C. A pure stereoisomer according to 13C NMR at 60 MHz is obtained; m.p. 132°-134° C., |alpha|=+24.9° (methanol, c=1%. After a further purification by chromatography, the enantiomerically and chemically pure N-[(2R)-7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl]-(R)-3-chloromandelamide, SR 58533, is obtained; m.p. 143°-147° C.; |alpha|=+35,1° (methanol, c=1%).

reactant | (R)-2-amino-7-hydroxytetralin hydrochloride | 2.6 g | Cl.N[C@H]1CC2=CC(=CC=C2CC1)O
reactant | (R)-3-chloromandelic acid | 2.4 g | ClC=1C=C([C@H](C(=O)O)O)C=CC1 | C8H7ClO3
reactant | BOP | 5.2 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | sodium chloride | 50 ml | [Cl-].[Na+]
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 3.6 ml | C(C)N(CC)CC | C6H15N
product | N-[(2R)-7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl]-(R)-3-chloromandelamide | OC1=CC=C2CC[C@H](CC2=C1)NC([C@H](O)C1=CC(=CC=C1)Cl)=O | C18H18ClNO3
